US09119868B2
Ethyl 2-(4-chlorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxylate (11 g, 27.2 mmol) was dissolved in anhydrous DCM (150 mL) and cooled in an ice bath under an atmosphere of nitrogen. Boron trichloride (41 mL, 41.0 mmol) was added over ˜20 minutes. After the reaction was complete, the reaction mixture was quenched by pouring into an ice/water mixture. The mixture was extracted with DCM, and the combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to give ethyl 2-(4-chlorophenyl)-5-hydroxy-6-nitrobenzofuran-3-carboxylate (10.2 g, 84%).

reactant | Ethyl 2-(4-chlorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxylate | 27.2 mmol, 11 g | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C20H18ClNO6
reactant | Boron trichloride | 41.0 mmol, 41 mL | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(4-chlorophenyl)-5-hydroxy-6-nitrobenzofuran-3-carboxylate | 10.2 g, 84% | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])O | C17H12ClNO6
